US07037921B2
N-[3-(9-Chloro-3-methyl-4-oxo-5H-2-oxa-1,5,7-triaza-cyclopenta[a]naphthalen-5-yl)cyclohexylmethyl]-benzamide
Dissolve [3-(9-chloro-3-methyl-4-oxo-5H-2-oxa-1,5,7-triaza-cyclopenta[a]naphthalen-5-yl)-cyclohexylmethyl]-carbamic acid benzyl ester (310 mg, 0.64 mmol) in dry dichloromethane (8 mL). Add iodotrimethylsilane (0.23 mL, 1.62 mmol) and stir overnight at ambient temperature. Quench with methanol (5 mL) and concentrate in vacuo. Concentrate twice from diethyl ether and use the dark solid crude amine salt directly without purification. MS(ES): (M+1)+ 347.1 m/z. Combine this amine salt with benzoic acid (94 mg, 0.77 mmol),1-[3-(dimethylamino)-propyl]-3-ethylcarbodiimide hydrochloride (148 mg, 0.77 mmol), 1-hydroxy-7-azabenzo-triazole (105 mg, 0.77 mmol), and N,N-diisopropylethyl amine (0.45 mL, 2.59 mmol), in N,N-dimethylformamide (8 mL) and stir over a weekend at ambient temperature. Concentrate in vacuo and take up in water and extract with dichloromethane. Dry over sodium sulfate and concentrate in vacuo. Elute over silica gel using methanol/dichloromethane to give 74 mg (26%) of the desired product as a white solid. MS(ES): (M+1)+ 451.1, 453.1 m/z.

reactant | [3-(9-chloro-3-methyl-4-oxo-5H-2-oxa-1,5,7-triaza-cyclopenta[a]naphthalen-5-yl)-cyclohexylmethyl]-carbamic acid benzyl ester | 0.64 mmol, 310 mg | C(C1=CC=CC=C1)OC(NCC1CC(CCC1)N1C(C=2C(C3=C(C=NC=C13)Cl)=NOC2C)=O)=O | C25H25ClN4O4
reactant | iodotrimethylsilane | 1.62 mmol, 0.23 mL | I[Si](C)(C)C | C3H9ISi
reactant | benzoic acid | 0.77 mmol, 94 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 1-[3-(dimethylamino)-propyl]-3-ethylcarbodiimide hydrochloride | 0.77 mmol, 148 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-7-azabenzo-triazole | 0.77 mmol, 105 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N,N-diisopropylethyl amine | 2.59 mmol, 0.45 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | N-[3-(9-Chloro-3-methyl-4-oxo-5H-2-oxa-1,5,7-triaza-cyclopenta[a]naphthalen-5-yl)cyclohexylmethyl]-benzamide | 74 mg, 26% | ClC=1C=NC=C2N(C(C=3C(C12)=NOC3C)=O)C3CC(CCC3)CNC(C3=CC=CC=C3)=O | C24H23ClN4O3
